US06887896B1
(2E,4E,6E)-7-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3.8-dimethyl-nona-2.4,6-trienoic acid (Compound A-171)
As described in General Procedure J-1, ethyl (2E,4E,6E)-7-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3,8-dimethyl-nona-2,4,6-trienoate (Compound A-160, 134 mg, 0.25 mmol) in ethanol was treated with a solution of 1 N aqueous NaOH to produce the title compound as a white solid after purification by recrystallization from acetonitrile.

reactant | ethyl (2E,4E,6E)-7-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3,8-dimethyl-nona-2,4,6-trienoate | 0.25 mmol, 134 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/C(C)C)OCC | C30H40BrFO3
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (2E,4E,6E)-7-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3.8-dimethyl-nona-2.4,6-trienoic acid | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)O)\C)/F)/C(C)C)OCC | C28H36BrFO3
